US05589489
3-[1-(3,4-Dichlorophenyl)-3-(4-(2-oxoperhydropyrimidine-1-yl)piperidino)propyl]-5-chloro-2-methyl-2,3-dihydroisoindol-1-one hydrochloride
3-(3,4-Dichlorophenyl)-3-(6-chloro-2-methyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)propionaldehyde (0.23 g) was coupled to 4-(2-oxoperhydropyrimidine-1-yl)piperidine (0.135 g) by a method similar to that described in Example 8. The reaction product was not purified by chromatography but converted to the corresponding hydrochloride salt as described in the Example 8 to afford the title compound (0.19 g); mp 220° C.; MS: m/z=549(M+1); NMR: 1.73 (m, 4), 2.09 (m,2), 2.5 (broad, 2), 2.44 (m,2), 2.75 (s,1), 3.07 (m,9), 3.56 (m,4), 4.88 (d,1, J=3), 6.83 (d,1, J=8), 7.08 (s,1), 7.49 (m,3), 8.04 (m, 1). Analysis for C27H31C13N4O4 : Calculated: C, 52.87; H, 5.75, N, 9.13; Found: C, 53.27; H, 5.64; N, 8.85.

reactant | 3-(3,4-Dichlorophenyl)-3-(6-chloro-2-methyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)propionaldehyde | 0.23 g | ClC=1C=C(C=CC1Cl)C(CC=O)C1N(C(C2=CC=C(C=C12)Cl)=O)C | C18H14Cl3NO2
reactant | 4-(2-oxoperhydropyrimidine-1-yl)piperidine | 0.135 g | O=C1N(CCCN1)C1CCNCC1 | C9H17N3O
product | 3-[1-(3,4-Dichlorophenyl)-3-(4-(2-oxoperhydropyrimidine-1-yl)piperidino)propyl]-5-chloro-2-methyl-2,3-dihydroisoindol-1-one hydrochloride | 0.19 g | Cl.ClC=1C=C(C=CC1Cl)C(CCN1CCC(CC1)N1C(NCCC1)=O)C1N(C(C2=CC=C(C=C12)Cl)=O)C | InChI=1S/C27H31Cl3N4O2.ClH/c1-32-25(22-16-18(28)4-5-21(22)26(32)35)20(17-3-6-23(29)24(30)15-17)9-14-33-12-7-19(8-13-33)34-11-2-10-31-27(34)36;/h3-6,15-16,19-20,25H,2,7-14H2,1H3,(H,31,36);1H
